US09371281B2
A solution of 3-(4-amino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester (62 mg, 0.21 mmol), DIPEA (0.06 mL, 0.32 mmol), benzoyl chloride (0.03 mL, 0.23 mmol) and THF (5 mL) was stirred for 10 hr at room temperature. The solution was then diluted with ether (20 mL) and ethyl acetate (20 mL) and washed with aq. NaHCO3 (50 mL). The organic layer was dried over MgSO4, filtered and concentrated. The remaining residue was subjected to flash chromatography (ethyl acetate/hexane, 2:3) to provide 3-(4-benzoylamino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester (69 mg, 83% yield).

reactant | 3-(4-amino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester | 0.21 mmol, 62 mg | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)N | C18H18N2O2
reactant | DIPEA | 0.32 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoyl chloride | 0.23 mmol, 0.03 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-benzoylamino-phenylmethyl)-1-methyl-1H-indole-5-carboxylic acid methyl ester | 69 mg, 83% yield | COC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C25H22N2O3
